US03959322
13β-Ethyl-3-acetoxygona-1,3,5(10),8-tetraen-17-one
Hydrogenate 13β-ethyl-3-acetoxygona-1,3,5(10),8,14-pentaen-17-one (1.8 g.) dissolved in benzene (25 ml.) at atmospheric pressure in the presence of 10% palladized charcoal (100 mg.). After 1.1 molar equivalents of hydrogen has been absorbed (ca. 12 hr.) filter off the catalyst, evaporate the filtrate under reduced pressure and recrystallize the residue from ethanol. Filter the red product through `Florisil` (60 g.) with benzene-petroleum (3:1), remove the solvent and recrystallize the product from ethanol to obtain the title product, m.p. 132.5°-134.5°; ultra-violet absorption peak at 277 mμ (ε 12,800).

reactant | 13β-ethyl-3-acetoxygona-1,3,5(10),8,14-pentaen-17-one | 1.8 g | C(C)[C@]12C(CC=C2C2=C(CC1)C=1C=CC(=CC1CC2)OC(C)=O)=O | C21H22O3
reactant | charcoal | 100 mg | C | CH4
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 13β-Ethyl-3-acetoxygona-1,3,5(10),8-tetraen-17-one | C(C)[C@]12C(CC[C@H]2C2=C(CC1)C=1C=CC(=CC1CC2)OC(C)=O)=O | C21H24O3
